US05183907
Preparation of 5-(2-chloro-4-trifluoromethylphenoxy)-3-hydroxy-3-methylphthalide
Dried malonic acid (156 g, 1.5 mol) and 5-(2-chloro-4-trifluoromethylphenoxy)phthalic anhydride (342 g, 1.0 mol) were stirred with triethylamine (200 ml) under a nitrogen atmosphere and warmed slowly to 80° C. After 5 hours at 80° C., the reaction mixture was allowed to cool to room temperature and ethyl acetate (750 ml) and water (500 ml) were added. The organic phase was separated and washed with dilute hydrochloric acid then water. Ethyl acetate was distilled from the solution and the crude product purified by chromatography over silica gel. Finally, crystallisation from 40°-60° petroleum spirit/diethyl ether afforded the product as a white solid, m.p. 106°-108° C. Yield=154 g (43%).

reactant | malonic acid | 1.5 mol, 156 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | 5-(2-chloro-4-trifluoromethylphenoxy)phthalic anhydride | 1.0 mol, 342 g | ClC1=C(OC2=CC=C3C(C(=O)OC3=O)=C2)C=CC(=C1)C(F)(F)F | C15H6ClF3O4
reactant | triethylamine | 200 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 750 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
product | 5-(2-chloro-4-trifluoromethylphenoxy)-3-hydroxy-3-methylphthalide | ClC1=C(OC=2C=C3C(OC(=O)C3=CC2)(C)O)C=CC(=C1)C(F)(F)F | C16H10ClF3O4
